US09034882B2
Methyl 2-(2-([1,1′-biphenyl]-3-yl)-7-hydroxy-5-methyl-[1,2,4]-triazolo[1,5-a]pyrimidin-6-yl)acetate
In a 100 ml RBF, equipped with a Dean-Stark trap (filled with molecular sieves), was added 5-([1,1′-biphenyl]-3-yl)-3H-1,2,4-triazol-3-amine (1.133 g, 4.80 mmol), dimethyl 2-acetylsuccinate (2.334 mL, 14.39 mmol) followed by Xylene (50 mL) and Ts-OH (9.12 mg, 0.048 mmol). The reaction was heated at reflux for 5 hrs. Filtered and washed by hexanes to collect the off-white solid, which was used directly for the next step. 1H-NMR (500 MHz, CDCl3) δ 2.26 (3H, s), 3.65 (2H, s), 3.72 (3H, s), 7.35-7.36 (1H, m), 7.44-7.46 (2H, m), 7.47-7.48 (1H, m), 7.64-7.66 (2H, m), 7.73-7.75 (1H, m), 8.13-8.15 (1H, m), 8.43 (1 H, s).

reactant | 5-([1,1′-biphenyl]-3-yl)-3H-1,2,4-triazol-3-amine | 4.80 mmol, 1.133 g | C1(=CC(=CC=C1)C1=NC(N=N1)N)C1=CC=CC=C1 | C14H12N4
reactant | dimethyl 2-acetylsuccinate | 14.39 mmol, 2.334 mL | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
reactant | Ts-OH | 0.048 mmol, 9.12 mg | S(=O)(=O)(C1=CC=C(C)C=C1)O | C7H8O3S
solvent | Xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2-(2-([1,1′-biphenyl]-3-yl)-7-hydroxy-5-methyl-[1,2,4]-triazolo[1,5-a]pyrimidin-6-yl)acetate | C1(=CC(=CC=C1)C1=NN2C(N=C(C(=C2O)CC(=O)OC)C)=N1)C1=CC=CC=C1 | C21H18N4O3
